US04983746
1.23 g of (3S,4S)-4-[(S)-2-(tert-butyldimethylsiloxy)tridecyl]-3-hexyl-2-oxetanone are dissolved in 6 ml of methanol and heated to reflux with the addition of 1.05 g of DOWEX 50W-X8 (acidic cation exchanger based on polymeric divinylbenzene containing sulphonic acid residues). The ion exchanger is filtered off and the filtrate is evaporated. The residue is chromatographed on silica gel. After recrystallization from hexane there is obtained (3S,4S)-3-hexyl-4-[(S)-2-hydroxytridecyl]-2-oxetanone of melting point 63°-64° C.

reactant | (3S,4S)-4-[(S)-2-(tert-butyldimethylsiloxy)tridecyl]-3-hexyl-2-oxetanone | 1.23 g | O([Si](C)(C)C(C)(C)C)[C@H](C[C@H]1[C@@H](C(O1)=O)CCCCCC)CCCCCCCCCCC | C28H56O3Si
reactant | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
solvent | methanol | 6 ml | CO | CH4O
product | (3S,4S)-3-hexyl-4-[(S)-2-hydroxytridecyl]-2-oxetanone | C(CCCCC)[C@@H]1C(O[C@H]1C[C@H](CCCCCCCCCCC)O)=O | C22H42O3
